data/rdb19/train.csv
rxn,smiles,ea
1864,[C:15]([C:16](=[O:17])[O:18][C:19](=[C:20]([H:25])[H:26])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10].[H:12][C:19]([O:18][C:16]([C:15]([H:21])([H:22])[H:23])=[O:17])([C:20]([H:25])[H:26])[H:24],37.45881453884067
855,[C:19]([C:20]([C:21]([H:22])[O:23][C:24]([H:30])([H:31])[H:32])([H:28])[H:29])([H:25])([H:26])[H:27].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:19]([C:20]([H:28])[H:29])([H:25])([H:26])[H:27].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]1([N:7]([H:17])[H:18])[O:6][C:21]1([H:22])[O:23][C:24]([H:30])([H:31])[H:32])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],69.78636814531637
1625,[C:15]([C:16](=[C:17]([H:24])[H:25])[C:18](=[O:19])[O:20][H:26])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:16](=[C:17]([H:24])[H:25])[C:18](=[O:19])[O:20][H:26].[C:1]([C:2](=[C:3]([H:4])[H:5])[C:6](=[O:7])[N:8]([H:13])[H:14])([H:9])([H:10])[H:11].[H:12][C:15]([H:21])([H:22])[H:23],82.67761926207459
1506,[C:10]([C:11]([C:12]([H:13])[c:14]1[c:15]([H:25])[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]1[H:29])([H:23])[H:24])([H:20])([H:21])[H:22].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[O:1]([C:2](=[O:3])[C:4]([C:5]([H:8])[H:9])([H:7])[C:12]([C:11]([C:10]([H:20])([H:21])[H:22])([H:23])[H:24])([H:13])[c:14]1[c:15]([H:25])[c:16]([H:26])[c:17]([H:27])[c:18]([H:28])[c:19]1[H:29])[H:6],18.019405594619457
3251,[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22]([C:23]([H:24])[O:25][C:26](=[O:27])[C:28]([H:34])([H:35])[H:36])([H:32])[H:33])([H:29])([H:30])[H:31]>>[C:1]([H:7])([H:8])([H:9])[H:33].[C:21]([C:22](=[C:23]([H:24])[O:25][C:26](=[O:27])[C:28]([H:34])([H:35])[H:36])[H:32])([H:29])([H:30])[H:31].[C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11],82.97815947711933
664,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[O:19][H:20]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])[H:9].[H:10][O:19][H:20],7.866902920679422
2364,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:24])([H:25])[H:26])([c:12]1[c:13]([H:27])[c:14]([H:28])[c:15]([H:29])[c:16]([H:30])[c:17]1[H:31])[H:23])([H:21])[H:22])([H:18])([H:19])[H:20]>>[C:1]([C:2]([H:3])([H:4])[H:26])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:24])[H:25])([c:12]1[c:13]([H:27])[c:14]([H:28])[c:15]([H:29])[c:16]([H:30])[c:17]1[H:31])[H:23])([H:21])[H:22])([H:18])([H:19])[H:20],23.055830572207924
3549,[C:17](=[C:18]([N:19]([C:20](=[O:21])[H:26])[H:25])[H:24])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]1([C:4]([H:11])([H:12])[H:13])[C:20]([N:19]([C:18](=[C:17]([H:22])[H:23])[H:24])[H:25])([H:26])[O:21]1)([H:9])[H:10])([H:6])([H:7])[H:8].[C:5]([H:14])([H:15])[H:16],69.1246056156815
554,[C:3]([C:4]([C:5]([C:6]([H:16])([H:17])[H:18])([N:7]([C:8](=[O:9])[H:20])[H:19])[H:15])([H:13])[H:14])([H:10])([H:11])[H:12].[O:1][H:2]>>[C:3]([C:4]([C:5]([C:6]([H:16])([H:17])[H:18])([N:7][C:8](=[O:9])[H:20])[H:15])([H:13])[H:14])([H:10])([H:11])[H:12].[O:1]([H:2])[H:19],9.952782791835489
94,[C:12]([O:13][C:14](=[O:15])[C:16](=[C:17]([H:22])[H:23])[C:18]([H:24])([H:25])[H:26])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[C:17]([C:16]([C:14]([O:13][C:12]([H:19])([H:20])[H:21])=[O:15])[C:18]([H:24])([H:25])[H:26])([H:22])[H:23])([H:6])([H:7])[H:8],15.684755049529484
411,[O:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:18])([H:19])[H:20])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])([H:9])[H:10])[H:8]>>[C:5]([C:6]([C:7]([H:18])([H:19])[H:20])([H:16])[H:17])([H:14])[H:15].[O:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])([H:9])[H:10])[H:8],30.387508495885413
4166,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])([H:12])[H:13])([H:9])([H:10])[H:11].[C:20](=[C:21]([N:22]([C:23](=[O:24])[H:29])[H:28])[H:27])([H:25])[H:26]>>[C:1]([C:2](=[C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])[H:12])([H:9])([H:10])[H:11].[H:13][C:20]([C:21]([N:22]([C:23](=[O:24])[H:29])[H:28])[H:27])([H:25])[H:26],33.53570947982371
549,[C:3](=[C:4]([c:5]1[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]([H:17])[c:10]1[H:18])[H:13])([H:11])[H:12].[O:1][H:2]>>[C:3](=[C:4]([c:5]1[c:6]([H:14])[c:7][c:8]([H:16])[c:9]([H:17])[c:10]1[H:18])[H:13])([H:11])[H:12].[O:1]([H:2])[H:15],9.404078390769428
